US09126948B2
Step 4: 1-(3-Bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethanamine
A mixture of 1-(3-bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethanone (0.44 g, 1.6 mmol) and ammonium acetate (1.8 g, 23 mmol) in acetonitrile (3.0 mL) and methanol (3.0 mL) was heated at 65° C. for an hour. Sodium cyanoborohydride (0.244 g, 3.88 mmol) was added and the mixture was heated at 65° C. overnight. Purification by preparative LCMS (pH=10) gave the desired compound (23% yield). LCMS calculated for C9H8BrClFO (M−NH2)+: m/z=264.9, 266.9. found: 264.9, 266.9. 1H NMR (300 MHz, CDCl3): δ 8.81 (br s, 2H), 7.80 (s, 1H), 4.80 (m, 1H), 3.97 (s, 3H), 1.69 (m, 3H).

reactant | 1-(3-bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethanone | 1.6 mmol, 0.44 g | BrC=1C(=C(C=C(C1F)Cl)C(C)=O)OC | C9H7BrClFO2
reactant | ammonium acetate | 23 mmol, 1.8 g | C(C)(=O)[O-].[NH4+]
reactant | Sodium cyanoborohydride | 3.88 mmol, 0.244 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
solvent | methanol | 3.0 mL | CO | CH4O
product | 1-(3-Bromo-5-chloro-4-fluoro-2-methoxyphenyl)ethanamine | 23% yield | BrC=1C(=C(C=C(C1F)Cl)C(C)N)OC | C9H10BrClFNO
